US08859591B2
Step D: (+/−)-4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoic acid
A mixture of (+/−)-ethyl 4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoate (46 mg, 0.095 mmol) in methanol (0.19 ml) and tetrahydrofuran (0.095 ml) was treated with aqueous lithium hydroxide (0.095 ml, 0.19 mmol, 2.0M). The mixture was stirred at ambient temperature for 12 hours. The reaction was concentrated in vacuo, then diluted with water and acidified with aqueous 1.0M hydrochloric acid. The mixture was then concentrated in vacuo a second time, and the crude residue was used directly for further transformations.

reactant | (+/−)-ethyl 4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoate | 0.095 mmol, 46 mg | FC(CCC(NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)OCC)C=C1)(F)F | C22H20F6N4O2
reactant | lithium hydroxide | 0.19 mmol, 2.0M, 0.095 ml | [OH-].[Li+]
solvent | methanol | 0.19 ml | CO | CH4O
solvent | tetrahydrofuran | 0.095 ml | O1CCCC1 | C4H8O
product | (+/−)-4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoic acid | FC(CCC(NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)O)C=C1)(F)F | C20H16F6N4O2
